US08222248B2
To a solution of (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid diethyl ester (270 mg, 0.49 mmol) in CH2Cl2 (10 mL) was added TMSBr (0.64 ml, 4.9 mmol) and the solution was stirred at ambient temperature overnight. The solvent was removed under reduced pressure and the residue was purified by HPLC to give (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid as a white solid. 1H NMR (Methanol-d4, 400 MHz): δ 8.45 (m, 3H), 8.08 (dd, 1H), 7.94 (m, 2H), 7.81 (dd, 1H), 7.77 (m, 1H), 7.56 (m, 1H), 7.13 (s, 2H), 2.95 (m, 2H), 2.18 (s, 6H), 2.01 (m, 2H). MS (m/z) 501.1 (M+1): Retention time: 1.12 min (Method 10).

reactant | (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid diethyl ester | 0.49 mmol, 270 mg | C(C)OP(OCC)(=O)CCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C31H33N4O4P
reactant | TMSBr | 4.9 mmol, 0.64 ml | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (2-{3,5-dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-ethyl)-phosphonic acid | CC=1C=C(C=C(C1C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C)CCP(O)(O)=O | C27H25N4O4P
